US08053438B2
The mixture of (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone (112 mg, 0.468 mmol), methyl 4-(3-fluoropyrazin-2-yl)piperidine-1-carboxylate (56 mg, 0.23 mmol), and cesium carbonate (153 mg, 0.468 mmol) in DMSO (0.8 mL) was heated at 80° C. for 20 h. The reaction mixture was partitioned between Teac and brine. The aqueous layer was back extracted with Teac (3×) and the combined organic layer was dried (Na2SO4) and concentrated. The crude material was purified by chromatography through a Redi-Sep pre-packed silica gel column (12 g), eluting with a gradient of 0% to 100% Teac in hexane, to provide methyl 4-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)piperidine-1-carboxylate as white solid. MS (ESI, pos. ion) m/z: 458.1 (M+1). IC50 (uM) +++++.

reactant | (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone | 0.468 mmol, 112 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
reactant | methyl 4-(3-fluoropyrazin-2-yl)piperidine-1-carboxylate | 0.23 mmol, 56 mg | FC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC | C11H14FN3O2
reactant | cesium carbonate | 0.468 mmol, 153 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 0.8 mL | CS(=O)C | C2H6OS
product | methyl 4-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)piperidine-1-carboxylate | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(OC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC)C=C2 | C25H23N5O4
